US04512991
Step A: 2-Amino-5,6-dichloro-3-(1-hydroxy-3-butenyl)pyrazine
In 4 ml of tetrahydrofuran and 4 ml of ether there was dissolved 288 mg (1.5 mMol) of 2-amino-5,6-dichloro-3-formylpyrazine prepared as in Example 1, Step B, after which the reaction mixture was cooled in a dry-ice/acetone bath, followed by addition of 2-propenyl magnesium chloride (1.5 ml). The reaction mixture was stirred for 15 minutes, an ammonium chloride solution was then added, followed by stirring for 15 minutes at room temperature, after which ether was added. The resulting aqueous layer was extracted twice with ether, and the combined extracts and ether layer were washed well with water, dried, and the solvent evaporated. The remaining material was passed through a silica gel column and eluted with dichloromethane to obtain the product (120 mg).

reactant | 2-amino-5,6-dichloro-3-formylpyrazine | 1.5 mMol, 288 mg | NC1=NC(=C(N=C1C=O)Cl)Cl | C5H3Cl2N3O
reactant | 2-propenyl magnesium chloride | 1.5 ml | C(C=C)[Mg]Cl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | ether | 4 ml | CCOCC | C4H10O
product | 2-Amino-5,6-dichloro-3-(1-hydroxy-3-butenyl)pyrazine | 120 mg | NC1=NC(=C(N=C1C(CC=C)O)Cl)Cl | C8H9Cl2N3O
